US04029679
Preparation of isobutanephosphonic acid diethyl ester
In a 10-liter flask with stirrer, internal thermometer, reflux condenser (-80° C.) and a cooled dropping funnel, 2070 g of diethylphosphite is heated to 150° C. Then over a period of about 90 minutes a mixture of 2070 g of diethylphosphite, 1680 g of isobutene and 44 g of ditertiarybutyl peroxide is added drop by drop. The reaction heat that develops is removed by external cooling. Then heating at 150° C. continues for about 30 minutes. Vacuum distillation through a 12-tray column delivers an 81% yield of pure product.

reactant | diethylphosphite | 2070 g | C(C)OP(OCC)[O-]
reactant | diethylphosphite | 2070 g | C(C)OP(OCC)[O-]
reactant | isobutene | 1680 g | C=C(C)C | C4H8
reactant | ditertiarybutyl peroxide | 44 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
product | isobutanephosphonic acid diethyl ester | 81% yield | C(C)OP(OCC)(=O)CC(C)C | C8H19O3P
